US05859007
A solution of 9.33 g of p-trifluoromethoxyaniline, 4.1 mL of acetone, and 14.53 g of sodium triacetoxyborohydryde in 50 mL of 1,2-dichloroethane were stirred overnight at RT. The reaction mixture is then poured onto ice-water and product extracted with 100 mL of dichloromethane. The organic layer is washed with water, sat NaHCO3, dried with Na2SO4 and solvent evaporated to afford 12 g of Isopropyl-(4-trifluoromethoxy-phenyl)-amine: 1H NMR (300 MHz, CDCl3) δ7.06 (d, 2H, J=8.5), 6.56 (d, 2H, J=8.5), 3.63(m, 1H), 1.25 (d, 6H, J=6.8).

reactant | p-trifluoromethoxyaniline | 9.33 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | acetone | 4.1 mL | CC(=O)C | C3H6O
reactant | sodium | 14.53 g | [Na] | Na
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | Isopropyl-(4-trifluoromethoxy-phenyl)-amine | 12 g | C(C)(C)NC1=CC=C(C=C1)OC(F)(F)F | C10H12F3NO
